US07495007B2
Preparation of intermediate E/Z-6-Chloro-3-(5-chloro-2-methyl-benzylidene)-1,3-dihydro-indol-2-one
5-Chloro-2-methyl-benzaldehyde (4 g, 16 mmol) and 6-chlorooxindole (2.5 g, 16 mmol) were mixed in anhydrous methanol (20 mL). Then pyrrolidine (1.32 mL, 16 mmol) was added slowly at r.t. The mixture was heated to 70° C. for 3 h and cooled to room temperature. The precipitate was collected by filtration to give title compound as yellow solid (Yield: 4.5 g).

reactant | 5-Chloro-2-methyl-benzaldehyde | 16 mmol, 4 g | ClC=1C=CC(=C(C=O)C1)C | C8H7ClO
reactant | 6-chlorooxindole | 16 mmol, 2.5 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyrrolidine | 16 mmol, 1.32 mL | N1CCCC1 | C4H9N
solvent | methanol | 20 mL | CO | CH4O
product | Z-6-Chloro-3-(5-chloro-2-methyl-benzylidene)-1,3-dihydro-indol-2-one | Yield: 4.5 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)C | C16H11Cl2NO
